US05338532
To a methanol solution of 1,4,7-tris-(carbomethoxymethyl)-1,4,7, 10-tetraazacyclododecane (DO3A methyl ester ) is added 1.0 equivalent of freshly prepared anhydrous sodium methoxide and the solution is allowed to stir for several hours. To this solution is added one equivalent of 10,11-epoxyundecanoic acid and the solution is brought to reflux overnight. The solvent is removed in vacuo to give a crude hydroxyethylated product, 1,4,7-tris-(carbomethoxymethyl)-10-[2'-hydroxy-10'-carboxy(decyl)]-1,4,7,10-tetraazacyclododecane. Two to five equivalents of this product are dissolved in dimethylformamide (DMF) and corresponding equivalents of dicyclohexylcarbodiimide (DCC) and N-hydroxysuccinimide are added with stirring overnight. To this solution is added one equivalent of generation 2 PAMAM and stirring is continued another 24 hours. The corresponding DO3A methyl ester conjugate is selectively hydrolyzed by treatment with aqueous sodium hydroxide in methanol. Treatment of the DO3A conjugate with excess Gadolinium(III) acetate (Gd(OAc)3) (buffered to pH=6) followed by incubation with excess diethylenetriaminepentaacetic acid (DTPA) and purification of the conjugate using preparative reverse phase HPLC gives a hydroxyethyl DO3A PAMAM starburst conjugate product which contains two to five equivalents of gadolinium which can not be removed by further challenges with excess DTPA.

reactant | 1,4,7-tris-(carbomethoxymethyl)-1,4,7, 10-tetraazacyclododecane | C(=O)(OC)CN1CCN(CCN(CCNCC1)CC(=O)OC)CC(=O)OC | C17H32N4O6
reactant | sodium methoxide | C[O-].[Na+]
reactant | 10,11-epoxyundecanoic acid | one equivalent | O1C(CCCCCCCCC(=O)O)C1 | C11H20O3
solvent | methanol | CO | CH4O
product | 1,4,7-tris-(carbomethoxymethyl)-10-[2'-hydroxy-10'-carboxy(decyl)]-1,4,7,10-tetraazacyclododecane | C(=O)(OC)CN1CCN(CCN(CCN(CC1)CC(CCCCCCCCC(=O)O)O)CC(=O)OC)CC(=O)OC | C28H52N4O9
